US07045528B2
2-Iodo-5-methoxy-phenylamine
To a solution of 4-iodo-3-nitroanisole (5 g, 17.9 mmole) in 100 ml methanol was added FeCl3 (50 mg, 0.3 mmole) and activated carbon (40 mg). The mixture was heated to reflux and hydrazine hydrate (1.75 g, 35 mmole) was added dropwise. The mixture was refluxed for an additional 8 hours and cooled to room temperature, filtered through Celite. The filtrate was concentrated and purified by column chromatography (eluting with 10% EtOAc in hexanes) to give 4.05 g product as pale yellow oil (91% yield). 1H NMR (300 MHz, CDCl3) δ 7.47 (1H, d, J=8.7 Hz), 6.31 (1H, d, J=2.8 Hz), 6.13 (1H, dd, J=2.8, 8.7 Hz), 3.73 (3H, s).

reactant | 4-iodo-3-nitroanisole | 17.9 mmole, 5 g | IC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C7H6INO3
reactant | hydrazine hydrate | 35 mmole, 1.75 g | O.NN
solvent | methanol | 100 ml | CO | CH4O
product | 2-Iodo-5-methoxy-phenylamine | 4.05 g, 91% yield | IC1=C(C=C(C=C1)OC)N | C7H8INO
